US05043346
8) 3-Octynyl methanesulfonate
7.47 g (65 mmol) of methanesulfonyl chloride are added dropwise within 30 minutes at 10° C. to a solution of 7.56 g (60 mmol) of 3-octyn-1-ol and 12.45 ml (90mmol) triethylamine in 225 ml of methylene chloride, and the mixture is stirred for one hour. The reaction solution is washed with water, saturated sodium bicarbonate solution and again with water, dried and concentrated.

reactant | methanesulfonyl chloride | 65 mmol, 7.47 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-octyn-1-ol | 60 mmol, 7.56 g | C(CC#CCCCC)O | C8H14O
reactant | triethylamine | 90mmol, 12.45 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 225 ml | C(Cl)Cl | CH2Cl2
product | 3-Octynyl methanesulfonate | CS(=O)(=O)OCCC#CCCCC | C9H16O3S
